US09303016B2
Synthesis of tert-butyl 5-methoxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-17
A 15 mL seal tube fitted with magnetic stirrer was charged with 5 mL of THF, tert-butyl 5-hydroxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-6 (0.15 g, 0.5 mmol). Potassium hydride (47 mg, 1.1 mmol) was added to this mixture at 0° C., under N2 atm. The reaction mixture was then stirred at room temperature for 30 minutes. Methyl iodide was slowly added (0.12 g, 0.8 mmol) at 0° C. and the resulting reaction mass was refluxed at 60° C. under sealed condition for 12 hrs. After completion of the reaction (reaction was monitored by TLC), reaction mixture was quenched with cold water and extracted with ethyl acetate (25 ml×3). The organic layer was washed with sodium chloride solution, was dried over anhydrous sodium sulfate and was concentrated to give crude Intermediate-17, which was subjected to column chromatogram (22% EtOAc in PE) to obtain an oily mass (0.1 g, yield=70%).

reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | tert-butyl 5-hydroxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | OC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C14H23NO3
reactant | Potassium hydride | 1.1 mmol, 47 mg | [H-].[K+]
reactant | Methyl iodide | CI | CH3I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 5-methoxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | yield=70% | COC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H25NO3
